US04234594
2[1-(4-fluorophenyl)-5-pyrazolyl] amino-2-imidazoline
1-Acetyl-2[1-(4-fluorophenyl)-5-pyrazolyl] amino-2-imidazoline (17.13 g.) was treated with HCl in methanol as described in Example II to give 12.06 g. product. mp 195°-197°

reactant | 1-Acetyl-2[1-(4-fluorophenyl)-5-pyrazolyl] amino-2-imidazoline | 17.13 g | C(C)(=O)N1C(=NCC1)NC1=CC=NN1C1=CC=C(C=C1)F | C14H14FN5O
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 2[1-(4-fluorophenyl)-5-pyrazolyl] amino-2-imidazoline | FC1=CC=C(C=C1)N1N=CC=C1NC=1NCCN1 | C12H12FN5
